US04539324
2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine
2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine Sulfuryl chloride (2.8 mmol) in dry dichloromethane (5 ml) was added dropwise over 15 minutes at -3° C. to a solution of 2-methylthio-4-methyl-5-(methylthiomethyloxy)methylpyrimidine (2.8 mmol) in dry dichloromethane (10 ml). The mixture was stirred at -3° C. for 10 minutes before the solution was evaporated at reduced pressure. The crude product (0.60 g, 98%) was used for alkylation in Example 10 without any further purification. 1H NMR (CDCl3): δ2.64 (4-CH3 and SCH3), 4.73 (CH2), 5.50 (CH2), 8.47 (H-6).

reactant | 2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine Sulfuryl chloride | 2.8 mmol | S(=O)(=O)(Cl)Cl.CSC1=NC=C(C(=N1)C)COCCl
reactant | 2-methylthio-4-methyl-5-(methylthiomethyloxy)methylpyrimidine | 2.8 mmol | CSC1=NC=C(C(=N1)C)COCSC | C9H14N2OS2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine | CSC1=NC=C(C(=N1)C)COCCl | C8H11ClN2OS
